* CML flip-flop sizing at 1.2 V: does the Alexander detector's latch actually
* latch, and does its output reach logic levels?
*
* Driven the way it is driven in the receiver: the clock is the ring's
* buffered output (common mode 0.684 V, 0.75 V per leg, measured in
* sim/results/e2e_diag3.log) and the data is the CTLE output (common mode
* 0.70 V, 271 mV differential, from sim/results/e2e_lock_tt.log).
*
* Pass criteria, both of which the ported sizing fails:
*   cml_lo   the CML node's low excursion must get below about 0.55 V, or the
*            CMOS inverter it drives never switches
*   q_pp     the output must be close to rail-to-rail, or the charge pump
*            downstream sees nothing
*
* A flip-flop transient at 600 MHz over 40 ns, so each point costs seconds.
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
.endc

.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib  res_typ

.include dff_p.inc

.global sub!
Vsub sub! 0 0

.options method=gear reltol=1e-3 abstol=1e-12

.param ui=1.665n
.param clkcm=0.684 clkamp=0.75
.param datcm=0.70  datamp=0.271

VDD VDD 0 1.2
VSS VSS 0 0
Vb  vbias 0 0.43

* 600.6 MHz differential clock at the ring's output levels.
Vck ckraw 0 PULSE(0 1 0 100p 100p '0.5*ui' 'ui')
Eckp clkp 0 vol='clkcm + 0.5*clkamp*(v(ckraw)-0.5)'
Eckm clkm 0 vol='clkcm - 0.5*clkamp*(v(ckraw)-0.5)'

* 0101 data at half the clock rate, at the CTLE's output levels.
Vdt dtraw 0 PULSE(0 1 0 100p 100p 'ui' '2*ui')
Edp  vip 0 vol='datcm + 0.5*datamp*(v(dtraw)-0.5)'
Edm  vim 0 vol='datcm - 0.5*datamp*(v(dtraw)-0.5)'

x1 VDD VSS Q Qn vip clkp clkm vim vbias d_flip_flop_p

.control
foreach wt 8 16 24
 foreach rl 2239 4000 6000
  alterparam Wtail = $wt
  alterparam Ltail = 1.0
  alterparam Rload = $rl
  reset
  save v(Q) v(Qn) v(x1.x1.n1) v(x1.x1.n2) v(x1.x1.n4)
  tran 5p 40n
  let p_wt = $wt
  let p_rl = $rl
  * x1.x1 is the master latch; n1 is one CML output node, n4 its tail node.
  meas tran cml_lo  MIN v(x1.x1.n1) FROM=20n TO=40n
  meas tran cml_hi  MAX v(x1.x1.n1) FROM=20n TO=40n
  meas tran tail_v  AVG v(x1.x1.n4) FROM=20n TO=40n
  meas tran itot    AVG i(vdd)      FROM=20n TO=40n
  meas tran q_pp    PP  v(Q)        FROM=20n TO=40n
  meas tran qn_pp   PP  v(Qn)       FROM=20n TO=40n
  print p_wt p_rl cml_lo cml_hi tail_v itot q_pp qn_pp
 end
end
quit
.endc
.end
